US09061060B2
Preparation of (3R,4S,5S,6R)-2-(4-chloro-3-(4-(2-(2,2-difluoroethoxy)ethoxy)benzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol (80)
To a cold (−60° C.) solution of 4-bromo-1-chloro-2-(4-(2-(2,2-difluoroethoxy)ethoxy)benzyl)benzene (4 g, 9.9 mmol) in dry THF/toluene (2:1, 18 mL) was slowly added dropwise a solution of n-butyllithium in hexane (2.5 M, 4.7 mL), and the pale yellow solution was stirred for 30 minutes at −60° C. A solution of (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one (6 g, 12.8 mmol) in toluene (15 mL) was added dropwise at a rate that maintained the temperature below −55° C., and the mixture was stirred for 2 hr at −60° C. The reaction mixture was quenched by addition of MeOH (24 mL) containing methanesulfonic acid (2 mL). The reaction was stirred overnight at RT, and then aqueous sodium hydrogen carbonate solution (30 mL) was added. The organic layer was separated, the aqueous phase was extracted with ethyl acetate (30 mL) and the combined organic extracts were dried over sodium sulfate. The product was concentrated to give a residue (5.4 g), which was used in the next step without further purification.

reactant | 4-bromo-1-chloro-2-(4-(2-(2,2-difluoroethoxy)ethoxy)benzyl)benzene | 9.9 mmol, 4 g | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCCOCC(F)F | C17H16BrClF2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)tetrahydro-2H-pyran-2-one | 12.8 mmol, 6 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
solvent | THF toluene | 18 mL | C1CCOC1.C1(=CC=CC=C1)C
solvent | hexane | 2.5 M, 4.7 mL | CCCCCC | C6H14
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (3R,4S,5S,6R)-2-(4-chloro-3-(4-(2-(2,2-difluoroethoxy)ethoxy)benzyl)phenyl)-6-(hydroxymethyl)-2-methoxytetrahydro-2H-pyran-3,4,5-triol | 5.4 g | ClC1=C(C=C(C=C1)C1(O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OC)CC1=CC=C(C=C1)OCCOCC(F)F | C24H29ClF2O8
